US05922751
solution of ethyl 3-aminopyrazole 4-carboxylate (70 g, 0.45 mol) and 3-cyclopentyloxy-4-methoxybenzaldehyde (100 g, 0.45 mol) in methanol (400 mL) was treated with sodium cyanoborohydride (19.0 g, 0.30 mol) and sodium acetate (2.0 g, 0.024 mol) in a stirred reaction vessel equipped with pH stat attached to a syringe pump and a syringe filled with 3N acetic acid in methanol. The pH stat was set to maintain pH 7. The acetic acid solutias the react as the reaction proceeded. After 24 hours, 169 mL of acetic acid solution had been added and no aldehyde remained in the reaction mixture by TLC (silica gel, 10% methanol/methylene chloride) and 3-cyclopentyloxy-4-methoxy-benzaldehyde (19.0 g, 0.086 mol) was added to the reaction mixture. After 30 hours, a total of 216 mL of acetic acid solution had been added and 3-cyclopentyloxy-4-methoxybenzaldehyde (16 g, 0.072 mol) was added to the reaction mixture. After 48 hours, 263 mL of acetic acid solution had been added and additional 3-cyclopentyloxy-3-methoxybenzaldehyde (29 g, 0.13 mol) was added to the reaction mixture. After 76 hours, 320 mL of acetic acid solution had been consumed and the reaction mixture was evaporated under reduced pressure. The residue was partitioned between water (400 mL) and ethyl acetate (400 mL) and the ethyl acetate was evaporated under reduced pressure to give 240 g of crude product. The crude product was purified by flash chromatography over 900 g of flash chromatography silica gel and eluted with methanol-methylene chloride mixtures. Elution with pure methylene chloride afforded by-product 3-cyclopentyloxy-4-methoxybenzyl alcohol. Elution with 1-25% methanol-methylene chloride gave 91 g (42%) of nearly pure ethyl 3-(3-cyclopentyloxy-4-methoxybenzyl-amino)pyrazole-4-carboxylate. A portion of this ethyl 3-(3-cyclopentyloxy-4-methoxybenzylamino)pyrazole carboxylate (29 g) was recrystallized from methyl t-butyl ether to give 16.8 g of pure ethyl 3- (3-cyclopentyloxy-4-methoxybenzyl-amino)pyrazole-4-carboxylate, mp 102-104°.

reactant | ethyl 3-aminopyrazole 4-carboxylate | 0.45 mol, 70 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.45 mol, 100 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | sodium cyanoborohydride | 0.30 mol, 19.0 g | C(#N)[BH3-].[Na+]
reactant | sodium acetate | 0.024 mol, 2.0 g | C(C)(=O)[O-].[Na+]
reactant | 3-cyclopentyloxy-4-methoxy-benzaldehyde | 0.086 mol, 19.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.072 mol, 16 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | 3-cyclopentyloxy-3-methoxybenzaldehyde | 0.13 mol, 29 g | C1(CCCC1)OC1(CC(C=O)=CC=C1)OC | C13H18O3
solvent | methanol | 400 mL | CO | CH4O
solvent | acetic acid | 263 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 216 mL | C(C)(=O)O | C2H4O2
solvent | methanol methylene chloride | CO.C(Cl)Cl
solvent | acetic acid | 169 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3N | C(C)(=O)O | C2H4O2
product | ethyl 3-(3-cyclopentyloxy-4-methoxybenzyl-amino)pyrazole-4-carboxylate | C1(CCCC1)OC=1C=C(CNC2=NNC=C2C(=O)OCC)C=CC1OC | C19H25N3O4
